US04086077
A solution of 9.25 g of 2-tert.butyl-5-ethylamino-1,3,4-thiadiazole and 3.5 g of methyl isocyanate is heated several hours on the steam bath and poured into water to give 1-ethyl-1-(5-tert.butyl-1,3,4-thiadiazol-2-yl)-3-methylurea, m.p. 112°.

reactant | 2-tert.butyl-5-ethylamino-1,3,4-thiadiazole | 9.25 g | C(C)(C)(C)C=1SC(=NN1)NCC | C8H15N3S
reactant | methyl isocyanate | 3.5 g | CN=C=O | C2H3NO
solvent | water | O | H2O
product | 1-ethyl-1-(5-tert.butyl-1,3,4-thiadiazol-2-yl)-3-methylurea | C(C)N(C(=O)NC)C=1SC(=NN1)C(C)(C)C | C10H18N4OS
